US06057352
Step E: Preparation of methyl (4-bromophenyl)carbamodithioate
To a stirred solution of carbon disulfide (6 mL, 100 mmol) at 0 ° C. under a nitrogen atmosphere was added a mixture of p-bromoaniline (1.72 g, 10 mmol) and triethylamine (1.4 mL, 10 mmol) dropwise via an addition funnel. The reaction mixture was stirred at 0 ° C. for 1.5 h, and then allowed to warm to room temperature overnight. To the reaction mixture was added iodomethane (0.62 mL, 10 mmol). The reaction mixture was stirred at room temperature for 2 h. The reaction mixture was diluted with diethyl ether (40 mL), and the resulting precipitate was filtered off. The filtrate was concentrated under reduced pressure and trituration of the residue with hexane afforded the title compound of Step E (2.34 g) as a solid melting at 111-112 ° C. 300 MHz 1H NMR (CDCl3): δ 8.67 (s,1H), 7.53 (d,2H), 7.38 (d,2H), 2.67 (s,3H).

reactant | carbon disulfide | 100 mmol, 6 mL | C(=S)=S | CS2
reactant | p-bromoaniline | 10 mmol, 1.72 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | triethylamine | 10 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | iodomethane | 10 mmol, 0.62 mL | IC | CH3I
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | methyl (4-bromophenyl)carbamodithioate | 2.34 g | BrC1=CC=C(C=C1)NC(=S)SC | C8H8BrNS2
